* source PEAKDETECTOR-CKT
V_V1         N15493 0  AC 0v
+SIN 0v 5v 50Hz 0 0 0
C_C1         0 N14467 10u TC=0
R_R1         0 N14467 4.7k
X_D2         N15493 N14467 awb1n4148 PARAMS:                
